US08735586B2
5-(1-Phenyl-1H-benzoimidazol-2-yl)-pentanoic acid methyl ester
The title compound was prepared with the analogous procedure described in example 1 using 1-Iodo-2-nitrobenzene (125 mg, 0.5 mmol) and 5-phenylcarbamoyl-pentanoic acid methyl ester (141 mg, 0.6 mmol) as starting materials to yield the title compound as brown oil (66 mg, 43%). 1H NMR (DMSO) δ 1.50-1.74 (m, 4 H), 2.27 (d, J=7.2 Hz, 2 H), 2.89 (d, J=7.5 Hz, 2 H), 3.52 (s, 3 H), 7.22 (d, J=8.1 Hz, 1 H), 7.38 (apparent t, J=7.6 Hz, 1 H), 7.46 (apparent t, J=7.6 Hz, 1 H), 7.52-7.72 (m, 5 H), 7.79 (d, J=7.8 Hz, 1 H); 13C NMR δ 23.3, 25.3, 25.4, 32.2, 50.9, 111.3, 115.6, 124.3, 124.4, 126.8, 130.0, 132.4, 133.2, 133.4, 153.9, 172.3. HRMS (FAB): cal. for C19H21N2O2 [M+H+]: 309.1603; found: 309.1595.

reactant | 1-Iodo-2-nitrobenzene | 0.5 mmol, 125 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | 5-phenylcarbamoyl-pentanoic acid methyl ester | 0.6 mmol, 141 mg | COC(CCCCC(NC1=CC=CC=C1)=O)=O | C13H17NO3
product | 5-(1-Phenyl-1H-benzoimidazol-2-yl)-pentanoic acid methyl ester | 66 mg, 43% | COC(CCCCC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2)=O | C19H20N2O2
